US07754757B2
According to the production process of (2S,4S)-1-(2-bromoacetyl)-4-fluoropyrrolidine-2-carbonitrile described in WO 02/38541 pamphlet, (2S,4S)-4-fluoropyrrolidine-2-carboxamide hydrochloride (5.00 g) and chloroacetyl chloride (2.60 mL) were used to obtain (2S,4S)-1-(2-chloroacetyl)-4-fluoropyrrolidine-2-carbonitrile (4.96 g).

reactant | (2S,4S)-1-(2-bromoacetyl)-4-fluoropyrrolidine-2-carbonitrile | BrCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C7H8BrFN2O
reactant | (2S,4S)-4-fluoropyrrolidine-2-carboxamide hydrochloride | 5.00 g | Cl.F[C@H]1C[C@H](NC1)C(=O)N
reactant | chloroacetyl chloride | 2.60 mL | ClCC(=O)Cl | C2H2Cl2O
product | (2S,4S)-1-(2-chloroacetyl)-4-fluoropyrrolidine-2-carbonitrile | 4.96 g | ClCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C7H8ClFN2O
